US06545029B2
Methyl O-(3-bromophenyl)-N-triphenylmethyl-L-serinate
Methyl (2S)-3-hydroxy-2-(triphenylmethylamino)propanoate (5.2 g , 14.4 mmol, 1 equiv; prepared according to Baldwin, J. E.; Spivey, A. C.; Schofield, C. J.; Sweeney, J. B. Tetrahedron 1993, 49, 6309) and triphenylphosphine (4.2 g, 15.8 mmol, 1.1 equiv) were dissolved in toluene (25 mL) at rt (room temperature). The reaction mixture was stirred for 30 min followed by addition of 3-bromo phenol (3.2 g, 18.7 mmol, 1.3 equiv) and DEAD (diethylazo dicarboxylate; 2.8 g, 15.8 mmol, 1.1 equiv) at rt. The reaction mixture was stirred at ambient temperature for 15 h while a white precipitate formed. The precipitate was filtered off and the solvents of the filtrate were removed in vacuuo. The remaining crude product was purified by flash chromatography (cyclohexanes/ethyl acetate 95:5) to give a white solid (5.2 g, 67.3%). 1H NMR (CDCl3, 200 MHz) δ 7.65-7.55 (m, 4 H); 7.41-7.12 (m, 9H); 6.70 (d, 2H); 4.20 (dd, 1H); 4.00 (dd, 1H); 3.75-3.60 (m, 1H); 3.73 (s, 3H); 2.87 (d, 1H).

reactant | Methyl (2S)-3-hydroxy-2-(triphenylmethylamino)propanoate | OC[C@@H](C(=O)OC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23NO3
reactant | triphenylphosphine | 15.8 mmol, 4.2 g, 1.1 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromo phenol | 18.7 mmol, 3.2 g, 1.3 equiv | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | DEAD | 15.8 mmol, 2.8 g, 1.1 equiv | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl O-(3-bromophenyl)-N-triphenylmethyl-L-serinate | 5.2 g, 67.3% | BrC=1C=C(C=CC1)OC[C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C29H26BrNO3
